US07084135B1
Step 13.e. 7-((1,1-Dimethylethoxy)carbonyl)-8-(2-hydroxyethyl)-2-(2-methoxyphenyl)-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazine
8-(2-Hydroxyethyl)-2-(2-methoxyphenyl)-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazine (compound vii, where R3 is 2-hydroxyethyl, R4 is 2-methoxyphenyl, and R5, R6 and R7 are H) from Step 13.d. (3.70 g, 13.6 mmol) was dissolved in THF (50 ml) and H2O (10 ml) was added. Di-tert-butyldicarbonate (3.25 g, 14.9 mmol) was added and the reaction was stirred vigorously for about 3 hours while maintaining the reaction pH at about 8.5 by addition of 2.5N NaOH solution. Solvents were removed under reduced pressure and the residue was distributed between EtOAc (25 ml) and H2O (25 ml). The product was extracted with 2×25 ml EtOAc and the combined extracts were dried over Na2SO4, filtered and concentrated. The crude product was purified by flash chromatography on silica gel using 3:2/EtOAc/hexanes as eluant. The combined product fractions were concentrated to a white foam and dried to yield 2.95 g, (58%) of the desired product. Mass spec 374.3 MH+, NMR (300 MHZ, DMSO, 30° C.) 7.95–8.05 (1H, d,d), 7.45–7.55 (1H, s), 7.1–7.25 (1H, m), 7.0–7.1 (1H, m), 6.9–7.0 (1H, m), 5.1–5.3 (1H, m), 4.1–4.4 (1H, d broad), 4.0–4.15 (1H, m), 3.8–4.0 (1H, m), 3.85–3.9 (3H, s), 3.5–3.7 (2H, t), 3.2–3.5 (1H, t broad), 3.25–3.25 (1H, s), 1.8–2.2 (2H, m), 1.35–1.5 (9H, s).

reactant | 8-(2-Hydroxyethyl)-2-(2-methoxyphenyl)-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazine | OCCC1C=2N(CCN1)C=C(N2)C2=C(C=CC=C2)OC | C15H19N3O2
reactant | H2O | 10 ml | O | H2O
reactant | Di-tert-butyldicarbonate | 14.9 mmol, 3.25 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 7-((1,1-Dimethylethoxy)carbonyl)-8-(2-hydroxyethyl)-2-(2-methoxyphenyl)-5,6,7,8-tetrahydro-imidazo[1,2-a]pyrazine | 58% | CC(C)(OC(=O)N1C(C=2N(CC1)C=C(N2)C2=C(C=CC=C2)OC)CCO)C | C20H27N3O4
